simulator lang=spectre
global 0
; NOTE: replace with your own PDK model file. Original: CSMC 0.18um, sm1816m50v13_usage.scs, section=tt_lib
include "/path/to/your/pdk/model.scs" section=tt_lib

subckt NMCNR VINN VINP VOUT IBIAS VDD VSS
NM7 (IBIASP IBIAS VSS VSS) mn18 w=1.986e-05 l=9.5e-07 m=25 //// Bias transistor
NM6 (net021 net028 VSS VSS) mn18 w=1.93e-05 l=1.369e-06 m=13 //// **Load** transistor, 2nd stage
NM5 (VOUT net021 VSS VSS) mn18 w=1.917e-05 l=1.676e-06 m=13 //// **Input** transistor, load(3rd) stage
NM4 (net028 net028 VSS VSS) mn18 w=1.372e-05 l=1.454e-06 m=2 //// **Load** transistor, 2nd stage
NM0 (net27 VINN net26 VSS) mn18 w=1.962e-05 l=1.49e-06 m=33 //// **Input** transistor, 1st stage ``NM1``
NM3 (IBIAS IBIAS VSS VSS) mn18 w=1.976e-05 l=1.401e-06 m=23 //// Bias transistor
NM2 (net26 IBIAS VSS VSS) mn18 w=1.972e-05 l=1.253e-06 m=12 //// Current tail transistor, 1st stage
NM1 (net28 VINP net26 VSS) mn18 w=1.962e-05 l=1.49e-06 m=33 //// **Input** transistor, 1st stage ``NM0``
PM5 (IBIASP IBIASP VDD VDD) mp18 w=1.907e-05 l=1.681e-06 m=21 //// Bias transistor
PM4 (net021 IBIASP VDD VDD) mp18 w=1.977e-05 l=1.494e-06 m=38 //// **Load** transistor, 2nd stage
PM3 (VOUT IBIASP VDD VDD) mp18 w=1.953e-05 l=9.267e-07 m=24 //// **Load** transistor, load(3rd) stage
PM2 (net028 net28 VDD VDD) mp18 w=1.904e-05 l=9.342e-07 m=20 //// **Input** transistor, 2nd stage
PM1 (net27 net27 VDD VDD) mp18 w=1.995e-05 l=1.732e-06 m=43 //// **Load** transistor, 1st stage ``PM0``
PM0 (net28 net27 VDD VDD) mp18 w=1.995e-05 l=1.732e-06 m=43 //// **Load** transistor, 1st stage ``PM1``
C1 (net021 net027) capacitor c=1.148e-12 m=1 //// Miller cap 1
C0 (net28 net027) capacitor c=2.683e-12 m=1 //// Miller cap 2
R0 (net027 VOUT) resistor r=19320.0 m=1 //// Nulling resistor
ends NMCNR



            V0 (VSS 0) vsource dc=0 type=dc
            V1 (VDD 0) vsource dc=1.8 type=dc
            C0 (VOUT VSS) capacitor c=5e-11
            I0 (VDD IBIAS) isource dc=3e-07 type=dc
            V2 (VINP 0) vsource dc=0.9 type=dc
            IPRB0 (VINN VOUT) iprobe
            I1 (VINN VINP VOUT IBIAS VDD VSS) NMCNR
            